US08372841B2
1-(2-Chloro-4-fluorophenyl)piperazine
A suspension of 1-bromo-2-chloro-4-fluorobenzene (4.19 g, 20 mmoles), piperazine (10.32 g, 120 mmoles), sodium tert-butoxide (2.3 g, 1.5 mmoles), tris(dibenzylideneacetone)dipalladium (366 mg, 0.4 mmoles) and racemic (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (747 mg, 1.2 mmoles) in toluene (2 mL) was heated to 120° C. overnight. The mixture was cooled, filtered and the filtrate concentrated under reduced pressure. The crude residue was purified by column chromatography (silica gel, 0-5% 2N methanolic ammonia in DCM) to provide the title compound.

reactant | 1-bromo-2-chloro-4-fluorobenzene | 20 mmoles, 4.19 g | BrC1=C(C=C(C=C1)F)Cl | C6H3BrClF
reactant | piperazine | 120 mmoles, 10.32 g | N1CCNCC1 | C4H10N2
reactant | sodium tert-butoxide | 1.5 mmoles, 2.3 g | CC(C)([O-])C.[Na+]
reactant | racemic (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 1.2 mmoles, 747 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 0.4 mmoles, 366 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-(2-Chloro-4-fluorophenyl)piperazine | ClC1=C(C=CC(=C1)F)N1CCNCC1 | C10H12ClFN2
